US08168659B2
Add trifluoroacetic acid (1.5 mL, 20 mmol) to a mixture of (R)-3-((R)-1-phenyl-ethylamino)-5-(3-cyclopropoxy-phenyl)-1-(4-trifluoromethyl-phenyl)-1,5-dihydro-pyrrol-2-one (1.92 g, 4.01 mmol) in toluene (10 mL) and water (4 mL). Stir at ambient temperature for 60 min. Observe significant formation of (R)-5-(3-cyclopropoxy-phenyl)-1-(4-trifluoromethyl-phenyl)-pyrrolidine-2,3-dione. LCMS, Ret. time=4.14 min., Method 3, MS (m/z): 376.0 (M+), 374.0 (M−1). Add a solution of 1-methyl-1-(6-trifluoromethyl-pyridin-3-yl)-ethylamine (1.2 g, 5.9 mmol) in toluene (10 mL) to the reaction solution. Then add acetic acid (1.9 mL, 33 mmol). Heat at 50° C. for 14 hours. Concentrate under reduced pressure. Purify the residue by silica gel chromatography (0-10% ethyl acetate-hexane) to obtain (R)-3-[1-methyl-1-(6-trifluoromethyl-pyridin-3-yl)-ethylamino]-5-(3-cyclopropoxy-phenyl)-1-(4-trifluoromethyl-phenyl)-1,5-dihydro-pyrrol-2-one as a tan foam. LCMS, Ret. time=5.40 min., Method 3, MS (m/z): 562.0 (M+), 560.0 (M−1). Dissolve (R)-3-[1-methyl-1-(6-trifluoromethyl-pyridin-3-yl)-ethylamino]-5-(3-cyclopropoxy-phenyl)-1-(4-trifluoromethyl-phenyl)-1,5-dihydro-pyrrol-2-one (1.09 g, 1.94 mmol) in acetic acid (20 mL) and add sodium cyanoborohydride (240 mg. 3.8 mmol). Stir 1 hour at ambient temperature. Concentrate under reduced pressure. Dissolve the residue in dichloromethane and wash with saturated sodium bicarbonate solution, dry over sodium sulfate, filter and concentrate under reduced pressure. Purify the residue by silica gel chromatography (0-15% ethyl acetate-hexane) to obtain (3R,5R)-3-[1-methyl-1-(6-trifluoromethyl-pyridin-3-yl)-ethylamino]-5-(3-cyclopropoxy-phenyl)-1-(4-trifluoromethyl-phenyl)-pyrrolidin-2-one (645 mg, 59%) as a white foam. LCMS, Ret. time=5.04 min, Method 3 MS (m/z): 564.0 (M+1).

reactant | (R)-3-[1-methyl-1-(6-trifluoromethyl-pyridin-3-yl)-ethylamino]-5-(3-cyclopropoxy-phenyl)-1-(4-trifluoromethyl-phenyl)-1,5-dihydro-pyrrol-2-one | 1.94 mmol, 1.09 g | CC(C)(C=1C=NC(=CC1)C(F)(F)F)NC=1C(N([C@H](C1)C1=CC(=CC=C1)OC1CC1)C1=CC=C(C=C1)C(F)(F)F)=O | C29H25F6N3O2
reactant | sodium cyanoborohydride | 3.8 mmol, 240 mg | C(#N)[BH3-].[Na+]
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | (3R,5R)-3-[1-methyl-1-(6-trifluoromethyl-pyridin-3-yl)-ethylamino]-5-(3-cyclopropoxy-phenyl)-1-(4-trifluoromethyl-phenyl)-pyrrolidin-2-one | 645 mg, 59% | CC(C)(C=1C=NC(=CC1)C(F)(F)F)N[C@H]1C(N([C@H](C1)C1=CC(=CC=C1)OC1CC1)C1=CC=C(C=C1)C(F)(F)F)=O | C29H27F6N3O2
